US05994378
A mixture of 4-tert-butyl-2-{5-{[4-(cyanomethyl)thiazol-2-yl]methyl}benzofuran-2-yl}thiazole (0.19 g), sodium azide (0.43 g) and ammonium chloride (0.36 g) in N,N-dimethylformamide (3 ml) was stirred at 120° C. for 3 days. After being cooled, the mixture was poured into ice-water and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure to give a syrup. The syrup was subjected to column chromatography on silica gel and eluted with a mixture of chloroform and methanol (50:1), successively with a mixture of chloroform and methanol (10:1). The fractions containing object compound were combined and concentrated under reduced pressure to give 5-{2-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}thiazol-4-ylmethyl}-1H-tetrazole (0.12 g).

reactant | 4-tert-butyl-2-{5-{[4-(cyanomethyl)thiazol-2-yl]methyl}benzofuran-2-yl}thiazole | 0.19 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CC=2SC=C(N2)CC#N | C21H19N3OS2
reactant | sodium azide | 0.43 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.36 g | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 5-{2-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}thiazol-4-ylmethyl}-1H-tetrazole | 0.12 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CC=2SC=C(N2)CC2=NN=NN2 | C21H20N6OS2
